US06750242B1
5-(2-Phenoxyethyloxy)indole
The title compound was prepared by a method analogous to that described in Example 1 from 2-phenoxyethyl bromide and 5-hydroxyindole. MS ES (MH+)=254.

reactant | 2-phenoxyethyl bromide | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | 5-hydroxyindole | OC=1C=C2C=CNC2=CC1 | C8H7NO
product | 5-(2-Phenoxyethyloxy)indole | O(C1=CC=CC=C1)CCOC=1C=C2C=CNC2=CC1 | C16H15NO2
